US05015658
Ethyl 4-(4,4,7-trimethyl-6-thiochromanoyloxy)benzoate
A solution of 83.7 mg (0.35 mmol) of 4,4,7-trimethyl-6-carboxythiochroman and 59.1 mg (0.35 mmol) of ethyl-4-hydroxybenzoate in 2 ml of methylene chloride was treated sequentially with 74.5 mg (0.36 mmol) of 1,3-dicyclohexylcarbodiimide and 11.1 mg (0.09 mmol) of 4-dimethylaminopyridine. The mixture was stirred under nitrogen for 24 h and then filtered. The fillrate was concentrated in-vacuo and the residue purified by flash chromatography (silica; 15% ethyl acetate in henane) to give the title compound as a pale yellow oil. PMR (CDCl3): δ1.37 (6H, s), 1.41 (3H, t, J~7.1 Hz), 1.92-2.00 (2H, m), 2.56 (3H, s), 3.02-3.10 (2H, m), 4.40 (2H, q, J~7.1 Hz), 7.03 (1H, s), 7.29 (2H, d, J~8.7 Hz), 8.13 (2H, d, J~8.7 Hz), 8.18 (1H, s).

reactant | 4,4,7-trimethyl-6-carboxythiochroman | 0.35 mmol, 83.7 mg | CC1(CCSC2=CC(=C(C=C12)C(=O)O)C)C | C13H16O2S
reactant | ethyl-4-hydroxybenzoate | 0.35 mmol, 59.1 mg | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | 1,3-dicyclohexylcarbodiimide | 0.36 mmol, 74.5 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.09 mmol, 11.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 4-(4,4,7-trimethyl-6-thiochromanoyloxy)benzoate | CC1(CCSC2=CC(=C(C=C12)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C)C | C22H24O4S
